US05726205
cis-O-(4-Chlorobenzoyl)-4-(4-dimethylaminomethylphenyl)-cyclohexanol
0.24 g (0.001 mol) of cis-4-(4-dimethylaminomethylphenyl)-cyclohexanol, 0,34 ml (0.0025 mol) of triethylamine and 0.12 g (0.001 mol) of dimethylaminopyridine are dissolved in 20 ml of methylene chloride, mixed with 0.175 g (0.001 mol) of 4-chlorobenzoylchloride and stirred for 12 hours at ambient temperature. The reaction mixture is combined with water and adjusted to pH 12-13 using sodium hydroxide solution. The methylene chloride phase is separated off, the aqueous phase is extracted several times with methylene chloride and the combined organic phases are washed with saturated saline solution, dried and evaporated down in vacuo. The residue is purified by column chromatography (aluminium oxide neutral, activity stage III, ICN; petroleum ether/ethyl acetate=45:1) White crystals.

reactant | cis-4-(4-dimethylaminomethylphenyl)-cyclohexanol | 0.001 mol, 0.24 g | CN(C)CC1=CC=C(C=C1)[C@H]1CC[C@H](CC1)O | C15H23NO
reactant | triethylamine | 0.0025 mol, 0,34 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.001 mol, 0.12 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-chlorobenzoylchloride | 0.001 mol, 0.175 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | cis-O-(4-Chlorobenzoyl)-4-(4-dimethylaminomethylphenyl)-cyclohexanol | ClC1=CC=C(C(=O)O[C@@H]2CC[C@@H](CC2)C2=CC=C(C=C2)CN(C)C)C=C1 | C22H26ClNO2
